US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[N-benzyl-N-(2-carbamoylethyl)-amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole (75 mg) in methanol (3 mL) was added 10% palladium-carbon powder (20 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2.5 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 4-[(4-{3-[2-(carbamoyl)ethylamino]propoxy}-2-methylphenyl)methyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole (66 mg). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.03 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (0.04 mL), and the resulting mixture was concentrated under reduced pressure. The residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (43 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[N-benzyl-N-(2-carbamoylethyl)-amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | 75 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCN(CCC(N)=O)CC1=CC=CC=C1)C)C(C)C | C41H54N4O12
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | 4-[(4-{3-[2-(carbamoyl)ethylamino]propoxy}-2-methylphenyl)methyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole | 66 mg | C(N)(=O)CCNCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O1)COC(C)=O)C | C34H48N4O12
